US09447084B2
4-[5-[3-chloro-5-(trifluoromethyl)phenyl]-5-(trifluoromethyl)-4,5-dihydro-1,2-oxazol-3-yl]-2-(trifluoromethyl)benzoic acid
Into a 100-mL round-bottom flask, was placed a solution of ethyl 4-[5-[3-chloro-5-(trifluoromethyl)phenyl]-5-(trifluoromethyl)-4,5-dihydro-1,2-oxazol-3-yl]-2-(trifluoromethyl)benzoate (400 mg, 0.75 mmol, 1.00 equiv) in methanol (5 mL), a solution of sodium hydroxide (400 mg) in water (5 mL). The resulting solution was stirred for 2 h at 50° C. The pH value of the solution was adjusted to 5 with hydrogen chloride (2 mol/L). The resulting solution was extracted with 2×10 mL of ethyl acetate and the organic layers combined. The resulting mixture was washed with 3×10 mL of brine. The mixture was dried over anhydrous sodium sulfate and concentrated under vacuum. This resulted in 380 mg (crude) of 4-[5-[3-chloro-5-(trifluoromethyl)phenyl]-5-(trifluoromethyl)-4,5-dihydro-1,2-oxazol-3-yl]-2-(trifluoromethyl)benzoic acid as yellow oil.

reactant | ethyl 4-[5-[3-chloro-5-(trifluoromethyl)phenyl]-5-(trifluoromethyl)-4,5-dihydro-1,2-oxazol-3-yl]-2-(trifluoromethyl)benzoate | 0.75 mmol, 400 mg, 1.00 equiv | ClC=1C=C(C=C(C1)C(F)(F)F)C1(CC(=NO1)C1=CC(=C(C(=O)OCC)C=C1)C(F)(F)F)C(F)(F)F | C21H13ClF9NO3
reactant | sodium hydroxide | 400 mg | [OH-].[Na+]
reactant | hydrogen chloride | 2 mol/L | Cl | ClH
solvent | methanol | 5 mL | CO | CH4O
solvent | water | 5 mL | O | H2O
product | 4-[5-[3-chloro-5-(trifluoromethyl)phenyl]-5-(trifluoromethyl)-4,5-dihydro-1,2-oxazol-3-yl]-2-(trifluoromethyl)benzoic acid | ClC=1C=C(C=C(C1)C(F)(F)F)C1(CC(=NO1)C1=CC(=C(C(=O)O)C=C1)C(F)(F)F)C(F)(F)F | C19H9ClF9NO3
